US05952362
To a solution of diethyl azodicarboxylate (2.1 mL) in tetrahydrofuran (THF) (40 mL) was added (1-trityl-1H-imidazole-4-yl)methanol (2.23 g, prepared as described in J. Med. Chem. (1977)20:721) and 3-nitrophenol (2 g). To this mixture at 0° C. was added dropwise a solution of triphenyl phosphine (3.44 g) in THF (60 mL). The reaction mixture was stirred at room temperature overnight. After evaporation of the solvent the residue was chromatographed on silica gel eluting with ethyl acetate:hexane (40:60) to isolate 4-(3-nitro-phenoxymethyl)-1-trityl-1H-imidazole (2 g).

reactant | diethyl azodicarboxylate | 2.1 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | (1-trityl-1H-imidazole-4-yl)methanol | 2.23 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)CO | C23H20N2O
reactant | 3-nitrophenol | 2 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | triphenyl phosphine | 3.44 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | THF | 60 mL | O1CCCC1 | C4H8O
product | 4-(3-nitro-phenoxymethyl)-1-trityl-1H-imidazole | 2 g | [N+](=O)([O-])C=1C=C(OCC=2N=CN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1 | C29H23N3O3
